US04950677
A suspension of 23 g of 5,6-difluoro-2-benzimidazolethiol in 740 ml of alcohol was treated with 22.1 g of 2-chloromethyl-4-methoxy-3-methylpyridine hydrochloride. A solution of 10 g of sodium hydroxide in 350 ml of water was added dropwise thereto while cooling with ice, the mixture was left to boil at reflux overnight and then concentrated to about 1/3 of its volume in a vacuum. After the addition of 1200 ml of water the crystals were filtered off and thereupon washed thoroughly first with water and then with ether. There was obtained 5,6-difluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole of melting point 216°-218°.

reactant | 5,6-difluoro-2-benzimidazolethiol | 23 g | FC1=CC2=C(N=C(N2)S)C=C1F | C7H4F2N2S
reactant | 2-chloromethyl-4-methoxy-3-methylpyridine hydrochloride | 22.1 g | Cl.ClCC1=NC=CC(=C1C)OC
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
solvent | water | 350 ml | O | H2O
product | 5,6-difluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole | FC1=CC2=C(N=C(N2)SCC2=NC=CC(=C2C)OC)C=C1F | C15H13F2N3OS
